US03953499
A solution of 12.0 g. of 1-chlorooct-7-yne in 20 ml. of tetrahydrofuran is added to a mixture of 27 ml. of 3N ethyl magnesium bromide in ether and 50 ml. of tetrahydrofuran. The mixture is stirred and heated under reflux for 30 min. under nitrogen, then 0.45 g. of powdered cuprous chloride is added and heating and stirring is continued for 20 min. A solution of 20.0 g. of 1-bromo-2,6-dimethyl-2,5-undecadiene in 15-ml. of tetrahydrofuran is added and the mixture is heated under reflux for 10 hrs., then allowed to stand for about 18 hrs., and poured into saturated aqueous ammonium chloride and ether. The mixture is filtered and the ether solution is separated, washed with water, dried over sodium sulfate, and evaporated to leave a residue comprising 1-chloro-10,14-dimethylnonadeca-10,13-dien-7-yne.

reactant | 1-chlorooct-7-yne | ClCCCCCCC#C | C8H13Cl
reactant | ethyl magnesium bromide | 3N | C(C)[Mg]Br
reactant | 1-bromo-2,6-dimethyl-2,5-undecadiene | BrCC(=CCC=C(CCCCC)C)C | C13H23Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-chloro-10,14-dimethylnonadeca-10,13-dien-7-yne | ClCCCCCCC#CCC(=CCC=C(CCCCC)C)C | C21H35Cl
